US05653911
A mixture of (3-fluoropropyl)triphenylphosphonium bromide (14.7 g, 36.5 millimols) with THF (60 ml) was cooled down to -20° C., followed by adding t-BuOK (4.1 g, 36.5 millimols) to the mixture, stirring for one hour, dropwise adding to the mixture, a THF (50 ml) solution of trans-4-(2-(4-cyanophenyl)ethyl)cyclohexanecarbaldehyde (9.0 g, 30.2 millimols so as to keep the temperature at -20° C. or lower, stirring the mixture at the same temperature for 2 hours, and treating the product in the same manner as in Example 1 except that the quantity used for extraction was made 200 ml, to obtain raw 4-(2-(trans-4-(4-fluorobutenyl)cyclohexyl)ethyl)benzonitrile (8.1 g).

reactant | (3-fluoropropyl)triphenylphosphonium bromide | 36.5 millimols, 14.7 g | [Br-].FCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 36.5 millimols, 4.1 g | CC(C)(C)[O-].[K+]
reactant | trans-4-(2-(4-cyanophenyl)ethyl)cyclohexanecarbaldehyde | C(#N)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)C=O | C16H19NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-(2-(trans-4-(4-fluorobutenyl)cyclohexyl)ethyl)benzonitrile | 8.1 g | FCCC=C[C@@H]1CC[C@H](CC1)CCC1=CC=C(C#N)C=C1 | C19H24FN
